US09193693B2
Step 2. Methyl 3-(4-(tert-butoxycarbonyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate
Into a 100-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 3-(4-(tert-butoxycarbonyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid (509.7 mg, 1.10 mmol, 1.00 equiv) in N,N-dimethylformamide (15 mL), potassium carbonate (762.3 mg, 5.52 mmol, 5.00 equiv). The resulting solution was stirred 30 min at room temperature. Then CH3I (783.3 mg, 5.52 mmol, 5.00 equiv) was added dropwise with stiffing at 0° C. The resulting solution was stirred for 3 h at room temperature. The reaction was then quenched by the addition of water. The resulting aqueous solution was extracted with 6×20 mL of dichloromethane. The organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 285.5 mg (54%) of methyl 3-(4-(tert-butoxycarbonyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate as yellow oil.

reactant | 3-(4-(tert-butoxycarbonyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid | 1.10 mmol, 509.7 mg, 1.00 equiv | C(C)(C)(C)OC(=O)C1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C25H27N3O4
reactant | potassium carbonate | 5.52 mmol, 762.3 mg, 5.00 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | CH3I | 5.52 mmol, 783.3 mg, 5.00 equiv | CI | CH3I
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | Methyl 3-(4-(tert-butoxycarbonyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate | C(C)(C)(C)OC(=O)C1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C26H29N3O4
